US08461179B1
3-(5-Amino-2,4-difluorophenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one (2.4 g, 7.5 mmol) and 4-methoxy-N-methylbenzylamine (10 mL) were combined in a sealed vessel and heated to 200° C. overnight. The volatiles were removed in vacuo and the residue was purified by column chromatography to give 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2,4-difluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (3 g, 91% yield), which was used in the next step without further purification.

reactant | 3-(5-Amino-2,4-difluorophenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one | 7.5 mmol, 2.4 g | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)Cl)C)=O)F)F | C15H10ClF2N3O
reactant | 4-methoxy-N-methylbenzylamine | 10 mL | COC1=CC=C(CNC)C=C1 | C9H13NO
product | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2,4-difluorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 3 g, 91% yield | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=C(C(=C2)N)F)F)C)C=C1 | C24H22F2N4O2
